US06124469
Preparation of 2-chloro-6-methylthiobenzaldehyde
20.0 g (0.114 mol) of 2,6-dichlorobenzaldehyde were dissolved in 100 ml of dimethylformamide and, while stirring at -15° C. under nitrogen protective gas, 7.54 g (0.107 mol) of sodium methanethiolate were added. The mixture was stirred at -10 to -15° C. for 5 h and then at room temperature for 12 h. The mixture was taken up in methyl tert-butyl ether, washed with water, dried over sodium sulfate and concentrated under reduced pressure. Yield 19.6 g (92%) of solid.

reactant | 2,6-dichlorobenzaldehyde | 0.114 mol, 20.0 g | ClC1=C(C=O)C(=CC=C1)Cl | C7H4Cl2O
reactant | sodium methanethiolate | 0.107 mol, 7.54 g | C[S-].[Na+]
reactant | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | methyl tert-butyl ether | C(C)(C)(C)OC | C5H12O
product | 2-chloro-6-methylthiobenzaldehyde | ClC1=C(C=S)C(=CC=C1)C | C8H7ClS
